US05716983
4-methy1-6,7-dihydroxycoumarin
45 ml 75% sulphuric acid is added dropwise to a mixture of 5.8 ml ethyl acetate and 11.4 g 1,2,4-triacetoxy- benzene, heated for 30 min to 80° C., poured onto ice, filtered, the precipitate is washed neutral and dried in a vacuum. 8.2 g of the title compound (95 % of theory) is obtained with a melting point of 270° to 272° C.

reactant | sulphuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,2,4-triacetoxy- benzene | 11.4 g | C(C)(=O)OC1=C(C=C(C=C1)OC(C)=O)OC(C)=O | C12H12O6
reactant | ethyl acetate | 5.8 ml | C(C)(=O)OCC | C4H8O2
product | 4-methy1-6,7-dihydroxycoumarin | 8.2 g, 95 % | CC1=CC(OC2=CC(=C(C=C12)O)O)=O | C10H8O4
